US09120825B2
In an argon atmosphere, 4.24 g (20.7 mmol) of Si(iPrNCHCHNiPr)(H)Cl was dissolved in 20 mL of hexane and after adding 2.51 g (42.4 mmol) of isopropylamine, the mixture was stirred at room temperature for 3 hours. Insoluble matters produced were separated by filtration, and the solvent was removed by distillation from the filtrate under atmospheric pressure. The obtained residue was distilled under reduced pressure (distillation temperature: 75° C./3.7×102 Pa) to obtain 1,3-diisopropyl-2-isopropylamino-1,3-diaza-2-silacyclopent-4-ene (Si(iPrNCHCHNiPr)(H)NHiPr) as a colorless liquid (yielded amount: 4.10 g, yield: 87%).

reactant | 2-chloro-1,3-diisopropyl-1,3-diaza-2-silacyclopent-4-ene | 20.7 mmol, 4.24 g | Cl[SiH]1N(C=CN1C(C)C)C(C)C | C8H17ClN2Si
reactant | isopropylamine | 42.4 mmol, 2.51 g | C(C)(C)N | C3H9N
solvent | hexane | 20 mL | CCCCCC | C6H14
product | 1,3-diisopropyl-2-isopropylamino-1,3-diaza-2-silacyclopent-4-ene | yield: 87% | C(C)(C)N1[SiH](N(C=C1)C(C)C)NC(C)C | C11H25N3Si
